US06867323B2
Preparation of Dimethyl[(1-phenyl-4-pentenyl)oxy]vinylsilane
In a 50-mL flask was placed 1-phenyl-4-penten-1-ol (3.24 g, 20.0 mmol) and Et3N (4.2 mL, 30.0 mmol, 1.5 equiv) in CH2Cl2 (20 mL) under a N2 atmosphere at 0° C. (internal). To the mixture was added dropwise chlorodimethylvinylsilane (3.3 mL, 24.0 mmol, 1.2 equiv). The mixture was allowed to warm to room temperature and was stirred for 0.5 h. The mixture was then poured to ice water (30 mL) and the aqueous phase was extracted with CH2Cl2 (2×30 mL). The combined organic layers were dried (Na2SO4), filtered and the solvent was removed by rotary evaporation. The residue was purified by chromatography (silica gel, hexane/EtOAc, 49/1) followed Kugelrohr distillation under reduced pressure to afford 4.48 g (91%) of F-5 as a colorless liquid.

reactant | 1-phenyl-4-penten-1-ol | 20.0 mmol, 3.24 g | C1(=CC=CC=C1)C(CCC=C)O | C11H14O
reactant | Et3N | 30.0 mmol, 4.2 mL, 1.5 equiv | CCN(CC)CC | C6H15N
reactant | chlorodimethylvinylsilane | 24.0 mmol, 3.3 mL, 1.2 equiv | Cl[SiH2]C=C(C)C | C4H9ClSi
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Dimethyl[(1-phenyl-4-pentenyl)oxy]vinylsilane | C[SiH](C=COC(CCC=C)C1=CC=CC=C1)C | C15H22OSi
